US05104988
Production of 4'-(2-Methoxyethoxy)-2,2':6',2"-terpyridine
Sodium hydride (60% content, oil dispersion, 1.20 g, 0.030 mol) was added to a mixture of 4'-methanesulfonyl-2,2':6',2"-terpyridine (3.11 g, 0.010 mol), 2-methoxyethanol (1.14 g, 0.015 mol) and DMF (0.1 liter) over a period of 10 minutes and then stirred for another 30 minutes. Thereafter, the reaction mixture was refluxed for 3 hours and then cooled to room temperature. The reaction mixture was then poured into an aqueous 4M sodium chloride solution and the crystal that precipitated was taken out by filtration under suction and then washed with water and hexane The crystal thus taken out was purified by passing the same into an alumina column using chloroform as an eluent, whereby 2.92 g of the above-entitled product (T-7) was obtained. Yield: 95%. m.p. 105.0 to 105.5° C.

reactant | Sodium hydride | 0.030 mol, 1.20 g | [H-].[Na+]
reactant | 4'-methanesulfonyl-2,2':6',2"-terpyridine | 0.010 mol, 3.11 g | CS(=O)(=O)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C16H13N3O2S
reactant | 2-methoxyethanol | 0.015 mol, 1.14 g | COCCO | C3H8O2
reactant | sodium chloride | 4M | [Cl-].[Na+]
solvent | DMF | 0.1 liter | CN(C)C=O | C3H7NO
product | 4'-(2-Methoxyethoxy)-2,2':6',2"-terpyridine | 2.92 g, Yield: 95% | COCCOC1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C18H17N3O2
